US04975438
As in Example 115, (2E,4Z)-5-(4-methoxyphenyl)-5-(3-pyridinyl) -2,4-pentadienoic acid (5.7 g) and 4-nitrophenol (3.06 g) in 80 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide (4.2 g) and the mixture was stirred at room temperature for 18 hours. After the usual work up. the ester was crystallized from 2-propanol to give 7.3 g of (E,E)-5-(4-methoxyphenyl)-5-(3-Pyridinyl)-2,4-pentadienoic acid 4-nitrophenyl ester 129.5°-131° C. The analytical specimen was obtained from the same solvent, mp 130°-131° C.

reactant | (2E,4Z)-5-(4-methoxyphenyl)-5-(3-pyridinyl) -2,4-pentadienoic acid | 5.7 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/C=1C=NC=CC1 | C17H15NO3
reactant | 4-nitrophenol | 3.06 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 4.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | (E,E)-5-(4-methoxyphenyl)-5-(3-Pyridinyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 7.3 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(\C=1C=NC=CC1)/C1=CC=C(C=C1)OC)=O | C23H18N2O5
